US06723819B2
160.0 g of a 30% caustic soda aqueous solution was added to 22.0 g of 3-aminoquinuclidine dihydrochloride, followed by stirring at room temperature. The solution thus obtained was extracted with 80.0 g of benzene twice to obtain an upper solution, which was evaporated to obtain a solution. 6.9 g of urea was added to 17.6 g of the solution (the amount of 3-aminoquinuclidine: 14.4 g). The solution thus obtained was reacted at 160° C. for 8 hours, and after the reaction, a volatile component was removed to obtain 19.3 g of a 3-quinuclidinyl urea composition. 38.6 g of dipropylene glycol was added thereto and subjected to a foaming test. The composition of the solution is shown in Table 6.

reactant | caustic soda | [OH-].[Na+]
reactant | 3-aminoquinuclidine dihydrochloride | 22.0 g | Cl.Cl.NC1CN2CCC1CC2
reactant | urea | 6.9 g | NC(=O)N | CH4N2O
reactant | 3-aminoquinuclidine | NC1CN2CCC1CC2 | C7H14N2
product | 3-quinuclidinyl urea | 19.3 g | N12C(CC(CC1)CC2)NC(N)=O | C8H15N3O
